US08426411B2
To a dry flask charged with 4 Å molecular sieves (5 g) and tetramethyl-ammonium fluoride (0.553 g, 5.93 mmol) was added THF (20 mL). The reaction mixture was stirred for about 30 min after which it was cooled to about −78° C. and a solution of (S,E)-2-methyl-N-((5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)methylene)propane-2-sulfinamide (1.20 g, 2.97 mmol) in THF (10 mL) was added. After about 15 min trimethyl(trifluoromethyl)silane (0.877 mL, 5.93 mmol) was added to the reaction mixture. The mixture was allowed to warm to −35 to −45° C. After about 3 h, the reaction mixture was cooled to −78° C. and aqueous NH4Cl was added. The reaction mixture was allowed to warm to rt. EtOAc (30 mL) and brine (30 mL) were added. The organic layer was separated, dried over anhydrous Na2SO4, filtered and concd in vacuo to provide crude (S)-2-methyl-N-(2,2,2-trifluoro-1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)ethyl)propane-2-sulfinamide (1.4 g, 99%) as a foamsulfonamide which was used without further purification. LC/MS (Table 1, Method a) Rt=2.49 min; MS m/z 475 (M+H)+.

reactant | tetramethyl-ammonium fluoride | 5.93 mmol, 0.553 g | [F-].C[N+](C)(C)C
reactant | (S,E)-2-methyl-N-((5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)methylene)propane-2-sulfinamide | 2.97 mmol, 1.20 g | CC(C)(C)[S@](=O)/N=C/C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C18H20N4O3S2
reactant | trimethyl(trifluoromethyl)silane | 5.93 mmol, 0.877 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | brine | 30 mL | [Cl-].[Na+].O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | (S)-2-methyl-N-(2,2,2-trifluoro-1-(5-tosyl-5H-pyrrolo[2,3-b]pyrazin-2-yl)ethyl)propane-2-sulfinamide | 1.4 g, 99% | CC(C)(C)[S@](=O)NC(C(F)(F)F)C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C19H21F3N4O3S2
